US05834501
5-[4-{2-(Imidazo[1,2-a]pyridin-2-yl)ethoxy}benzyl]-thiazolidine-2.4-dione (Compound No. 1-107)
A procedure similar to that described in Example 2 was repeated, except that 0.94 g of 5-[4-{2-(imidazo-[1,2-a]pyridin-2-yl)ethoxy}benzyl]-3-triphenylmethyl-thiazolidine-2,4-dione (prepared as described in Preparation 27), 4 ml of methylene chloride and 1 ml of trifluoroacetic acid were used, to give the title compound as a crude product. This product was purified by column chromatography through silica gel, using a 2:1 by volume mixture of hexane and ethyl acetate and subsequently a 1:2 by volume mixture of ethyl acetate and tetrahydrofuran, as the eluents, to give 287 mg of the title compound, melting at 205.9°-207.0° C. (with decomposition).

reactant | 5-[4-{2-(imidazo-[1,2-a]pyridin-2-yl)ethoxy}benzyl]-3-triphenylmethyl-thiazolidine-2,4-dione | 0.94 g | N=1C(=CN2C1C=CC=C2)CCOC2=CC=C(CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C2 | C38H31N3O3S
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 5-[4-{2-(Imidazo[1,2-a]pyridin-2-yl)ethoxy}benzyl]-thiazolidine-2.4-dione | N=1C(=CN2C1C=CC=C2)CCOC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | C19H17N3O3S
